US09302991B2
<Step-1>: 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)oxazole-5-carboxamide (single enantiomer)
The title compound is prepared in 47% yield (106 mg, clear colorless oil) from (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (182 mg, 0.63 mmol, Amine-5, single enantiomer) and 2-aminooxazole-5-carboxylic acid (80 mg, 0.63 mmol) by the similar manner in Step-1 of Example 8.

reactant | (+)-1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.63 mmol, 182 mg | Cl.ClC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-aminooxazole-5-carboxylic acid | 0.63 mmol, 80 mg | NC=1OC(=CN1)C(=O)O | C4H4N2O3
product | 2-amino-N-(1-(5-chloro-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)oxazole-5-carboxamide | 47% yield | NC=1OC(=CN1)C(=O)NC(C)C=1C=NC(=C(C1)Cl)OCC(F)(F)F | C13H12ClF3N4O3
